US04013703
Into a flask fitted with a condenser and magnetic stirring bar is charged 12.3 g (0.05 mole) norbornadiene/isobutyl 2-cyanoacrylic acid adduct and a solution of 4.9 g 86% potassium hydroxide (0.075 mole) in 75 ml. of water. After heating at reflux for 1.5 hours, the solution is cooled to room temperature and extracted with 2 × 25 ml. of hexane to remove any nonsaponified adduct. The aqueous phase is acidified to pH 2 with 6 N hydrochloric acid and the liberated oily product is taken up in 100 ml. ethyl acetate. The extract is filtered to remove some white insoluble solids (0.9g., m.p. 182° C.) and the filtrate washed with 3 × 25 ml. water, 1 × 25 ml. saturated sodium chloride solution, and solvent stripped in vacuo to a pale yellow, viscous oil (8.7 g.). Crystallization of the oily product from benzene/hexane in the cold affords 4.2 g of the norbornadiene/2-cyanoacrylic acid adduct, white crystals, m.p. 83°-86° C. Another 3.0 g. of adduct, m.p. 81°-84° C., is obtained on concentration of the mother liquors and cooling. The combined crops of adduct are recrystallized from 1:2 benzene/hexane to afford 5.9 g of pure adduct, white crystals, m.p. 81°-83° C.

reactant | norbornadiene isobutyl 2-cyanoacrylic acid | 0.05 mole, 12.3 g | C12=CC=C(CC1)C2.C(C(C)C)C=C(C(=O)O)C#N
reactant | potassium hydroxide | 0.075 mole, 4.9 g | [OH-].[K+]
solvent | water | O | H2O
product | norbornadiene 2-cyanoacrylic acid | 4.2 g | C12=CC=C(CC1)C2.C(#N)C(C(=O)O)=C | InChI=1S/C7H8.C4H3NO2/c1-2-7-4-3-6(1)5-7;1-3(2-5)4(6)7/h1-2H,3-5H2;1H2,(H,6,7)
